US04101663
To a stirring solution of 4.2 g of 4-(2-toluyl)piperidine hydrochloride and 4.0 g of triethylamine in 150 ml of dimethylformamide is added 3.8 g of 3-(2-bromoethyl)indole. The resulting solution is stirred at ambient temperature for 70 hours and stirring is continued while 500 ml of water are added dropwise. An oil appears which is extracted from the solution with chloroform, the combined chloroform extracts are dried and the excess chloroform is removed, leaving an oil which crystallizes upon standing. The solid product is recrystallized from cyclohexane and then twice from an ethanol-water mixture to give flakes, mp 111°-112° C., 3-{2-[4-(2-toluyl)piperidyl]ethyl}indole.

reactant | 4-(2-toluyl)piperidine hydrochloride | 4.2 g | Cl.C1(=C(C=CC=C1)C1CCNCC1)C
reactant | triethylamine | 4.0 g | C(C)N(CC)CC | C6H15N
reactant | 3-(2-bromoethyl)indole | 3.8 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-{2-[4-(2-toluyl)piperidyl]ethyl}indole | C1(=C(C=CC=C1)C1CCN(CC1)CCC1=CNC2=CC=CC=C12)C | C22H26N2
